*****************************************************************
* NXP BUK9Y43-60E
*
* Polarity N-Channel
* Ratings 60V/4.300000E-002OHMS/21.5295555969211A
*
* Date Created Tue Feb 05 08:38:48 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9Y43-60E DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 1.58336269740926
RLS1 8 7 0.00024

RDS 7 4 60000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0280751317231857 TC=0.00481000963580824,1.32315034786882E-05
RBD 9 4 0.00398316133760574 TC=0.00481000963580824,1.32315034786882E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 100000000
CGS 2 6 5.63969805905731e-10
RG 1 2 2.14663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	34.893
+ -10	36.0944
+ -8	37.2339
+ -6	43.4895
+ -5	56.8267
+ -4	62.5047
+ -3	68.7781
+ -2	87.2714
+ -1	123.206
+ -0.5	137.411
+ -0.2	155.273
+ -0.1	155.4
+ 0	186.10342
+ 0.1	140.70252
+ 0.2	140.55112
+ 0.5	122.06104
+ 1	107.24768
+ 2	89.21988
+ 3	81.96951
+ 4	78.40894
+ 5	76.15824
+ 6	74.53713
+ 8	72.1829
+ 10	70.42271
+ 12	68.90413
+ 15	66.89451
+ 20	64.04444
+ 25	61.69043
+ 30	59.7848
+ 40	56.91461
+ 48	55.18411



.MODEL MINT NMOS(Vto=2.14907630126135 Kp=4.752978e+001 Nfs=620000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=9.76970226505116e-14
+ N=1 M=0.57 VJ=0.5 Fc=0.5 Cjo=2.443282e-10 Tt=1.0128e-08)

.ENDS

